US07241769B2
2-amino-6-(2-amino-ethoxy)-benzamide
444 μl (7.4 mmol) ethanolamine are dissolved in 4 ml 1,4-dioxane, combined with 312 mg (7.8 mmol) sodium hydride and stirred for 30 min at ambient temperature. 1 g (7.4 mmol) 2-amino-6-fluorobenzonitrile are metered into this reaction mixture and it is stirred for 6 days at ambient temperature. Then the solvent is eliminated in vacuo. The crude product is purified by column chromatography. The carrier material used is silica gel and the eluant used is dichloromethane to which 10% of a mixture of 90% methanol and 10% saturated aqueous ammonia solution have been added.

reactant | ethanolamine | 7.4 mmol, 444 μl | C(O)CN | C2H7NO
reactant | sodium hydride | 7.8 mmol, 312 mg | [H-].[Na+]
reactant | 2-amino-6-fluorobenzonitrile | 7.4 mmol, 1 g | NC1=C(C#N)C(=CC=C1)F | C7H5FN2
reactant | 1,4-dioxane | 4 ml | O1CCOCC1 | C4H8O2
product | 2-amino-6-(2-amino-ethoxy)-benzamide | NC1=C(C(=O)N)C(=CC=C1)OCCN | C9H13N3O2
